US04407745
In 120 ml of dimethylformamide are dissolved 9.5 g (13 millimoles) of Z-Gln-Arg(Mts)-Leu-OH obtained according to the process of Example 20 and 5.2 g (16 millimoles) of Boc-Leu-OSu, and 1.43 ml of N-methylmorpholine is added to the solution. Then 0.5 g of 10% Pd-C is added to the mixture, and the mixture is stirred for 5 hours in a current of H2. The N-(2-aminoethyl)piperazine is added to the mixture, the mixture is stirred for 1 hour. The 10% Pd-C is recovered by filtration, and the mixture is cancentrated under reduced pressure. The residue is added to a liquid mixture of 100 ml of ethyl acetate and 200 ml of a dilute aqueous solution of citric acid. The mixture is sufficiently stirred, and the ethyl acetate layer is recovered, washed with water, dried and concentrated under reduced pressure. Ether is added to the concentrate and the precipitate is recovered by filtration to obtain 9.5 g of intended Boc-Leu-Gln-Arg(Mts)-Leu-OH (the yield being 86.5%).

reactant | Z-Gln-Arg(Mts)-Leu-OH | 13 millimoles, 9.5 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(C)C=C1C)=N)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C34H49N7O9S
reactant | Boc-Leu-OSu | 16 millimoles, 5.2 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
reactant | N-methylmorpholine | 1.43 ml | CN1CCOCC1 | C5H11NO
reactant | N-(2-aminoethyl)piperazine | NCCN1CCNCC1 | C6H15N3
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | Boc-Leu-Gln-Arg(Mts)-Leu-OH | 9.5 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(C)C=C1C)=N)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C37H62N8O10S
